US08604055B2
Step (i): Synthesis of 2-(bis-cyclopropylmethyl-amino)-6-fluoro-pyridine-3-carbaldehyde
To [2-(bis-cyclopropylmethy-amino)-6-fluoro-pyridin-3-ylmethyl]-(3,5-bis-trifluoromethyl-benzyl)-cyanamide (244 mg, 0.5 mmol) stirred in isopropanol (5 mL) and water (10 mL) was added sodium azide (38.4 mg, 0.55 mmol) and zinc bromide (115.6 mg, 0.5 mmol). After stirring at reflux overnight, the solution was extracted with ethyl acetate (2×15 mL). The combined organic layers were washed with water and brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give the title compound as an orange oily product (248 mg, yield: 91%) and was used as is without purification.

reactant | [2-(bis-cyclopropylmethy-amino)-6-fluoro-pyridin-3-ylmethyl]-(3,5-bis-trifluoromethyl-benzyl)-cyanamide | 0.5 mmol, 244 mg | C1(CC1)CN(C1=NC(=CC=C1CN(C#N)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)F)CC1CC1 | C24H23F7N4
reactant | water | 10 mL | O | H2O
reactant | sodium azide | 0.55 mmol, 38.4 mg | [N-]=[N+]=[N-].[Na+]
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
catalyst | zinc bromide | 0.5 mmol, 115.6 mg | [Br-].[Zn+2].[Br-]
product | 2-(bis-cyclopropylmethyl-amino)-6-fluoro-pyridine-3-carbaldehyde | C1(CC1)CN(C1=NC(=CC=C1C=O)F)CC1CC1 | C14H17FN2O
